US06486190B1
(2-imidazolinylamino)-7-methoxy-4-methylbenzimidazole is made in the same manner as 4-ethyl-5-(2-imidazolinylamino)-7-methylbenzimidazole except that 2-methoxy-5-methylacetanilide is used instead of 3-ethyl-6-methylacetanilide (see Example 2). Cleavage of the methyl ether is achieved with pyridinium hydrochloride to afford 7-hydroxy-5-(2-imidazolinylamino)-4-methylbenzimidazole.

reactant | (2-imidazolinylamino)-7-methoxy-4-methylbenzimidazole | N1(C=NCC1)NC=1NC2=C(N1)C(=CC=C2C)OC | C12H15N5O
reactant | 4-ethyl-5-(2-imidazolinylamino)-7-methylbenzimidazole | C(C)C1=C(C=C(C=2N=CNC21)C)NN2C=NCC2 | C13H17N5
reactant | methyl ether | COC | C2H6O
reactant | pyridinium hydrochloride | Cl.[NH+]1=CC=CC=C1
product | 7-hydroxy-5-(2-imidazolinylamino)-4-methylbenzimidazole | OC1=CC(=C(C2=C1N=CN2)C)NN2C=NCC2 | C11H13N5O
